US06949648B2
3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline-4-carbonitrile
A solution of 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (5.89 g, 20.0 mmol), potassium cyanide (2.04 g, 31.3 mmol) and 18-crown-6 (6.96 g, 26.3 mmol) in tetrahydrofuran (90 mL) and acetonitrile (90 mL) was heated under reflux for 8 hours. The solution was allowed to cool to room temperature, and poured into water. The solution was made weakly basic by the addition of a sodium hydroxide solution, and extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvents were evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform) to give crude crystals. The crude crystals were recrystallized from ethyl acetate to give the title compound (2.86 g, 50% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 20.0 mmol, 5.89 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | potassium cyanide | 31.3 mmol, 2.04 g | [C-]#N.[K+]
reactant | 18-crown-6 | 26.3 mmol, 6.96 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline-4-carbonitrile | 2.86 g, 50% yield | CC1=NN(C2=NC3=CC=CC=C3C(=C21)C#N)C2=NC=CC=C2 | C17H11N5
